data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(Cl)CC1Cl.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(Cl)CC1Cl.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(Cl)CC1Cl", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(Cl)CC2Cl.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(Cl)CC2Cl", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(Cl)CC2Cl"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cc(C2(O)C(=O)CC3CCC2(C)C3(C)C)ccc1Cl.[H+]", "products": "COc1cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)ccc1Cl"}, {"reactants": "COc1cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)ccc1Cl", "products": "COc1cc([C+]2C(=O)CC3CCC2(C)C3(C)C)ccc1Cl.O"}, {"reactants": "COc1cc([C+]2C(=O)CC3CCC2(C)C3(C)C)ccc1Cl", "products": "COc1cc(C23CCC(CC2=O)C(C)(C)[C+]3C)ccc1Cl"}, {"reactants": "COc1cc(C23CCC(CC2=O)C(C)(C)[C+]3C)ccc1Cl", "products": "COc1cc(C2=C(C)C(C)(C)C(C#[O+])CC2)ccc1Cl"}, {"reactants": "COc1cc(C2=C(C)C(C)(C)C(C#[O+])CC2)ccc1Cl.O", "products": "COc1cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)ccc1Cl"}, {"reactants": "COc1cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)ccc1Cl", "products": "COc1cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)ccc1Cl"}, {"reactants": "COc1cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)ccc1Cl", "products": "COc1cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)ccc1Cl"}, {"reactants": "COc1cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)ccc1Cl", "products": "COc1cc(C2CCC3C(=O)OC2(C)C3(C)C)ccc1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1F.[H+]", "products": "Cc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1F"}, {"reactants": "Cc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1F", "products": "Cc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1F.O"}, {"reactants": "Cc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1F", "products": "Cc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1F"}, {"reactants": "Cc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1F", "products": "CC1=C(c2cccc(C)c2F)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(C)c2F)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(C)c2F)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(C)c2F)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1F"}, {"reactants": "Cc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1F", "products": "Cc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1F"}, {"reactants": "Cc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1F", "products": "Cc1cccc(C2CCC3C(=O)OC2(C)C3(C)C)c1F.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cccc(Br)c1)C1C2CCC1C2", "products": "[O][C](c1cccc(Br)c1)C1C2CCC1C2"}, {"reactants": "[O][C](c1cccc(Br)c1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cccc(Br)c1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cccc(Br)c1", "products": "OC(=CC1C=CCC1)c1cccc(Br)c1"}, {"reactants": "OC(=CC1C=CCC1)c1cccc(Br)c1", "products": "O=C(CC1C=CCC1)c1cccc(Br)c1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1cccc(C(F)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(F)c2cccc(F)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(F)c2cccc(F)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1cccc(F)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(F)c1cccc(F)c1", "products": "O=C1CCN2C[C@H](OC(F)c3cccc(F)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(C)(OC3Cl)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(C)OC(Cl)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(C)OC(Cl)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C)OC(Cl)C2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C)OC(Cl)C2O3)cc1", "products": "CC12OC(Cl)C(O1)C1C(=O)C12"}, {"reactants": "CC12OC(Cl)C(O1)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C3OC(C)(OC3Cl)C21"}, {"reactants": "COC1([O-])C2C3OC(C)(OC3Cl)C21.CO", "products": "COC(=O)C1CC2OC1(C)OC2Cl"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(Cl)C(F)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(Cl)C1(F)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(Cl)C1(F)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(Cl)C1(F)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(Cl)C1(F)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(Cl)C1(F)CC(C(=O)OC)C(=O)C2"}]}
